US07342078B2
4.83 g of sodium borohydride and 39.1 g of 2-isopropyl-7-(4′-tert-butylphenyl)-1-indanone together with 118 ml of toluene are placed in a reaction vessel. At 50° C., 22.5 ml of methanol are slowly added and the reaction mixture is stirred for 6 hours at 50° C. After cooling to room temperature, 50 ml of 2N sulfuric acid are added and the mixture is stirred vigorously for another 30 minutes. The mixture is subsequently transferred to a separating funnel, the phases are separated and the aqueous phase is shaken twice with a total of 60 ml of 2N sulfuric acid. The organic phases are combined and dried over magnesium sulfate. The solvent of the reaction mixture is removed virtually completely and 200 ml of toluene and 0.4 g of p-toluenesulfonic acid are subsequently added to the residue. Water is distilled from the reaction mixture by heating for 1.5 hours on a water separator until reaction is complete. The reaction mixture is subsequently washed once with 100 ml of saturated sodium hydrogen carbonate solution and dried over magnesium sulfate. After separating off the magnesium sulfate, the residue is dried in an oil pump vacuum. This gives 35.7 g of 2-isopropyl-4-(4′-tert-butylphenyl)indene (total yield: 96%).

reactant | sodium borohydride | 4.83 g | [BH4-].[Na+]
reactant | 2-isopropyl-7-(4′-tert-butylphenyl)-1-indanone | 39.1 g | C(C)(C)C1C(C2=C(C=CC=C2C1)C1=CC=C(C=C1)C(C)(C)C)=O | C22H26O
reactant | toluene | 118 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 2N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 22.5 ml | CO | CH4O
product | 2-isopropyl-4-(4′-tert-butylphenyl)indene | 35.7 g, yield: 96% | C(C)(C)C=1CC2=CC=CC(=C2C1)C1=CC=C(C=C1)C(C)(C)C | C22H26
